US07842701B2
2-(3-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid (500 mg), 10% palladium/active carbon (50% water, 50 mg), tetrahydrofuran (30 ml) and methanol (50 ml) was stirred under hydrogen atmosphere, at room temperature for one night. To the reaction mixture was added tetrahydrofuran to dissolve the precipitated solid and the reaction mixture was filtered. The filtrate was concentrated under reduced pressure. To the residue was added ethanol-ethyl acetate, and the solid was collected by filtration. The solid was washed with ethyl acetate and dried to obtain the target compound (353 mg).

reactant | 1-(3-methoxyphenyl)-3-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid | 500 mg | COC=1C=C(C=CC1)N1N=C(C(=C1)C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13N3O5
reactant | methanol | 50 ml | CO | CH4O
catalyst | palladium | 50 mg | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(3-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 353 mg | COC=1C=C(C=CC1)N1N=C2C(C(NC=3C=CC=CC23)=O)=C1 | C17H13N3O2
